US07053089B2
To a solution of tert-butyl 4-oxopiperidine-1-carboxylate (7.0 g, 32.8 mmol) in CH2Cl2 (14 mL) at −10° C. was added HF-pyridine (11.6 mL, 82.1 mmol) portionwise. The reaction mixture was stirred for 10 min at −10° C., warmed to RT. After stirring for 16 h, the reaction was quenched with aqueous NaCO3, and extracted with CH2Cl2. The aquoues layer was concentrated to a white paste that was suspended in CH2Cl2 (100 mL). N-benzyloxycarbonyloxysuccinimide (8.2 g, 32.8 mmol) was added and the mixture was stirred at RT for 3 h. The reaction mixture was partitioned between EtOAc and H2O, the organic layer was dried over Na2SO4, filtered and concentrated. Purification on silica gel (10:1 to 1:1 hexanes:EtOAc) gave benzyl 4-fluoro-4-(hydroxymethyl)piperidine-1-carboxylate as a clear oil. M.S. (M+1): 268

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 32.8 mmol, 7.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | HF-pyridine | 82.1 mmol, 11.6 mL | C1=CC=NC=C1.F
reactant | N-benzyloxycarbonyloxysuccinimide | 32.8 mmol, 8.2 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | benzyl 4-fluoro-4-(hydroxymethyl)piperidine-1-carboxylate | FC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)CO | C14H18FNO3
